US08791132B2
1-(6-Bromo-pyridin-3-yl)-2-(3,6-dimethyl-5,6,7,8-tetrahydro-1,6,9-triaza-fluoren-9-yl)-ethanol (2 g, 4.9 mmol) was dissolved in DMF (20 mL), and the mixture was purged with nitrogen. Zinc cyanide (1.16 g, 9.9 mmol) and Pd(PPh3)4 (339 mg, 0.294 mmol) were added, and the mixture heated at 150° C. for 2 h. The reaction was monitored by LCMS. The reaction mixture was allowed to cool at RT, diluted with EtOAc (250 mL) and filtered. The filtrate was washed with water (3×100 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated to obtain the crude that was purified by reverse phase chromatography to obtain 100 mg of 5-[2-(3,6-dimethyl-5,6,7,8-tetrahydro-1,6,9-triaza-fluoren-9-yl)-1-hydroxy-ethyl]-pyridine-2-carbonitrile. This was followed by chiral separation. 1H NMR (CDCl3, Free base) δ (ppm): 8.62 (s, 1H), 8.03 (s, 1H), 7.73 (d, 1H), 7.6 (d, 1H), 7.5 (s, 1H), 5.25 (d, 1H), 4.45 (d, 1H), 4.3 (dd, 1H), 3.55 (dd, 2H), 2.8 (m, 1H), 2.7 (m, 2H), 2.5 (s, 3H), 2.45 (s, 3H), 2.4 (m, 1H). Separation by chiral HPLC provided enantiomers II-114a-b.

reactant | 1-(6-Bromo-pyridin-3-yl)-2-(3,6-dimethyl-5,6,7,8-tetrahydro-1,6,9-triaza-fluoren-9-yl)-ethanol | 4.9 mmol, 2 g | BrC1=CC=C(C=N1)C(CN1C=2CCN(CC2C=2C=C(C=NC12)C)C)O | C19H21BrN4O
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
catalyst | Zinc cyanide | 9.9 mmol, 1.16 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(PPh3)4 | 0.294 mmol, 339 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[2-(3,6-dimethyl-5,6,7,8-tetrahydro-1,6,9-triaza-fluoren-9-yl)-1-hydroxy-ethyl]-pyridine-2-carbonitrile | 100 mg | CC=1C=NC=2N(C=3CCN(CC3C2C1)C)CC(O)C=1C=CC(=NC1)C#N | C20H21N5O
